US07893056B2
4-(Chloromethyl)-1,3-thiazol-2-amine (490 mg, 2.65 mmol) was stirred in 40% aqueous methylamine (25 ml) overnight. The reaction mixture was evaporated. The residue was diluted with 95:5 dichloromethane/methanol (25 ml), was dried over sodium sulfate, was filtered and was evaporated to provide 4-[(methylamino)methyl]-1,3-thiazol-2-amine that was used without purification. LCMS: (M+H)+: 144.0.

reactant | 4-(Chloromethyl)-1,3-thiazol-2-amine | 2.65 mmol, 490 mg | ClCC=1N=C(SC1)N | C4H5ClN2S
reactant | methylamine | 25 ml | CN | CH5N
product | 4-[(methylamino)methyl]-1,3-thiazol-2-amine | CNCC=1N=C(SC1)N | C5H9N3S
